US08431573B2
2-(3-Chlorobenzyl)-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 150 mg (0.51 mmol) of 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 448 mg (5.14 mmol) of morpholine to give 109 mg (63% of theory) of the title compound.

reactant | 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.51 mmol, 150 mg | ClC=1C=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC1 | C13H10ClN3OS
reactant | morpholine | 5.14 mmol, 448 mg | N1CCOCC1 | C4H9NO
product | 2-(3-Chlorobenzyl)-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | ClC=1C=C(CC=2NC(C(=C(N2)N2CCOCC2)C#N)=O)C=CC1 | C16H15ClN4O2
